US08420695B2
2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide (0.1 g, 0.320 mmol), 4-bromophenyl methyl sulfone (0.075 g, 0.320 mmol), Pd2 dba3 (0.029 g, 0.032 mmol), K2CO3 (0.049 g, 0.352 mmol) and X-Phos (0.076 g, 0.160 mmol) were added to a 5 mL microwave vial. Degassed EtOH (1 mL) was added and the vial evacuated and back-filled with N2 (×3). The resulting mixture was stirred at 100° C. overnight. Room temperature was attained, MeOH was added and the solvent removed in vacuo while loading onto silica. Purification of the residue by MPLC (0-10% MeOH—CHCl3) gave 5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-2-{[4-(methylsulfonyl)phenyl]amino}thiophene-3-carboxamide as a beige solid after triturating in DCM.

reactant | 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | 0.320 mmol, 0.1 g | NC=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C14H14F2N2O2S
reactant | 4-bromophenyl methyl sulfone | 0.320 mmol, 0.075 g | CS(=O)(=O)C1=CC=C(C=C1)Br | C7H7BrO2S
reactant | K2CO3 | 0.352 mmol, 0.049 g | C(=O)([O-])[O-].[K+].[K+]
reactant | X-Phos | 0.160 mmol, 0.076 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Pd2 dba3 | 0.032 mmol, 0.029 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-2-{[4-(methylsulfonyl)phenyl]amino}thiophene-3-carboxamide | FC1=C(C(=CC(=C1)C(C)(C)O)F)C1=CC(=C(S1)NC1=CC=C(C=C1)S(=O)(=O)C)C(=O)N | C21H20F2N2O4S2
